US09227976B2
Step 6: 4-chloro-3-iodo-5-phenyl-1H-pyrazolo[3,4-c]pyridazine
A suspension of 4-chloro-5-phenyl-1H-pyrazolo[3,4-c]pyridazine (2.44 g, 10.6 mmol) and N-iodosuccinimide (3.58 g, 15.9 mmol) in acetonitrile (106 mL) was heated at reflux for 1 d. The yellow solid was collected by filtration whilst warm to provide a mixture of the title compound and starting material (9:1, 4 g).

reactant | 4-chloro-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | 10.6 mmol, 2.44 g | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2 | C11H7ClN4
reactant | N-iodosuccinimide | 15.9 mmol, 3.58 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 106 mL | C(C)#N | C2H3N
product | 4-chloro-3-iodo-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2I | C11H6ClIN4
